US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(2-methyl-thiazol-4-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 2-methyl-thiazole-4-amidoxime (24.6 mg, 0.156 mmol) and 3-chloro-thiophene-2-carbonyl chloride (28.7 mg, 0.159 mmol) similar to Example 16, and yielded 18.2 mg (40%) of white solid. 1H NMR (CDCl3): 8.03 (s, 1H), 7.61 (d, J=5.49 Hz, 1H), 7.13 (d, J=5.22 Hz, 1H), 2.84 (s, 3H).

reactant | 2-methyl-thiazole-4-amidoxime | 0.156 mmol, 24.6 mg | CC=1SC=C(N1)C(N)=NO | C5H7N3OS
reactant | 3-chloro-thiophene-2-carbonyl chloride | 0.159 mmol, 28.7 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-(2-methyl-thiazol-4-yl)-[1,2,4]-oxadiazole | ClC1=C(SC=C1)C1=NC(=NO1)C=1N=C(SC1)C | C10H6ClN3OS2
